US08242104B2
A mixture of methyl 3-hydroxy-4-(1H-imidazol-2-yl)benzoate (2.2 g, 10 mmol), 1,2-dibromoethane (3.12 mL, 36 mmol) and cesium carbonate (13.14 g, 40 mmol) in DMF (100 mL) was heated at 90° C. for 12 hours. The mixture was filtered, the mother liquor was concentrated in vacuo, and the residue was partitioned between water and ethyl acetate. The suspension was filtered and the solid was pure byproduct. The organic layer was washed with water, brine and dried over MgSO4 and concentrated to give crude methyl 5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate (2 g, 80%).

reactant | methyl 3-hydroxy-4-(1H-imidazol-2-yl)benzoate | 10 mmol, 2.2 g | OC=1C=C(C(=O)OC)C=CC1C=1NC=CN1 | C11H10N2O3
reactant | 1,2-dibromoethane | 36 mmol, 3.12 mL | BrCCBr | C2H4Br2
reactant | cesium carbonate | 40 mmol, 13.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | methyl 5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-9-carboxylate | 2 g, 80% | N=1C=CN2CCOC3=C(C21)C=CC(=C3)C(=O)OC | C13H12N2O3
